US09388189B2
Methyl 1-amino-3-bromo-1H-pyrrole-2-carboxylate
Methyl 3-bromo-1H-pyrrole-2-carboxylate (1.74 g, 8.53 mmol) was treated with an aqueous solution of sodium hydroxide (32%, 25 mL, 172.3 mmol), ammonium hydroxide solution (8M, 8 mL, 63.5 mmol), ammonium chloride (2.74 g, 51.2 mmol), aliquat 336 (312 μl, 0.68 mmol) and a 10% aqueous solution of sodium hypochlorite (10%, 56 mL, 75.4 mmol) according to the method of Preparation 4c to give 600 mg (23% yield) of the title product. Purity 70%.

reactant | Methyl 3-bromo-1H-pyrrole-2-carboxylate | 8.53 mmol, 1.74 g | BrC1=C(NC=C1)C(=O)OC | C6H6BrNO2
reactant | sodium hydroxide | 172.3 mmol, 25 mL | [OH-].[Na+]
reactant | ammonium hydroxide | 63.5 mmol, 8M, 8 mL | [OH-].[NH4+]
reactant | ammonium chloride | 51.2 mmol, 2.74 g | [Cl-].[NH4+]
reactant | sodium hypochlorite | 75.4 mmol, 56 mL | Cl[O-].[Na+]
catalyst | aliquat 336 | 0.68 mmol, 312 μl | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | Methyl 1-amino-3-bromo-1H-pyrrole-2-carboxylate | 600 mg, 23% yield | NN1C(=C(C=C1)Br)C(=O)OC | C6H7BrN2O2
